US07544689B2
(3RS,4R)-2,2-Dimethyl-4-(trityl-amino)-hexan-3-ol
To a stirred suspension of CuBr.SMe2 (1.37 g, 2.2 eq, 6.66 mmol) in Et2O (100 mL) under an-argon atmosphere at −78° C., was added tert-butyllithium (1.5 M in pentane, 8.0 mL, 4 eq, 12.0 mmol) dropwise and the solution allowed to warn to room temperature. The mixture was recooled to −55° C., to which was added a solution of (R)-2-(trityl-amino)-butyraldehyde (1 g, 1 eq, 3.03 mmol) in Et2O (25 mL) dropwise with stirning, and stirred at this temperature for 3 h. To the reaction mixture was added a saturated aqueous solution of NH4Cl (100 mL) and allowed to warm to room temperature over 16 h. The reaction mixture was extracted with Et2O (2×200 mL), and the combined organic phase washed with brine (50 mL), dried (MgSO4) and evaporated in vacuo. The residue was purified by silica gel gradient column chromatography, eluted with hexane:ether (100:0→90:10) to afford the title compound as a light yellow oil. Yield: 0.57 g (49%). (55% de 3S,4R: 45% de 3R,4R). 1H-NMR (d6-DMSO, 250 MHz): δ0.36 & 0.86 (2×t, 3H, J=7.42 Hz, —NH CH(CH2CH3)CH(C(CH3)3)OH), 0.57 & 0.71 (2×s, 9H, —NHCH(CH2CH3)CH (C(CH3)3)OH), 1.38-1.52 (m, 2H, —NHCH(CH2CH3)CH(C(CH3)3)OH), 1.99 (m, 1H, —NHCH(CH2CH3)CH(C(CH3)3)OH), 2.27 (m, 1H, —NHCH(CH2CH3)CH (C(CH3)3)OH), 2.95 (m, 1H, —NHCH(CH2CH3) CH(C(CH3)3)OH), 4.22 & 4.77 (2×d, 1H, J=4.42 5.21 Hz, —NHCH(CH2CH3) CH(C(CH3)3)OH), 7.14-7.52 (m, 15H, 3×Ph).

reactant | SMe2 | 6.66 mmol, 1.37 g, 2.2 eq | S(C)C | C2H6S
reactant | tert-butyllithium | 12.0 mmol, 1.5 M, 8.0 mL, 4 eq | C(C)(C)(C)[Li]
reactant | (R)-2-(trityl-amino)-butyraldehyde | 3.03 mmol, 1 g, 1 eq | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@@H](C=O)CC | C23H23NO
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | Et2O | 100 mL | CCOCC | C4H10O
solvent | Et2O | 25 mL | CCOCC | C4H10O
product | (3RS,4R)-2,2-Dimethyl-4-(trityl-amino)-hexan-3-ol | CC(C)(C([C@@H](CC)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)C | C27H33NO
